US06521643B1
To a suspension of N-(4-(4-methylpyridin-2-yl)phenyl)thiourea (186 mg) in N,N-dimethylformamide(4 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.383 ml) and iodoethane (0.306 ml), and the mixture was stirred at 50° C. for 2.5 hours. After cooling, the mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.5 ml). The precipitate was collected by filtration and recrystallized from ethanol-ethyl acetate to give N-(4-(4-methylpyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride (162 mg).

reactant | N-(4-(4-methylpyridin-2-yl)phenyl)thiourea | 186 mg | CC1=CC(=NC=C1)C1=CC=C(C=C1)NC(=S)N | C13H13N3S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1,4-dioxane | 4N, 0.383 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | iodoethane | 0.306 ml | ICC | C2H5I
product | N-(4-(4-methylpyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride | 162 mg | Cl.Cl.CC1=CC(=NC=C1)C1=CC=C(C=C1)NC(SCC)=N | InChI=1S/C15H17N3S.2ClH/c1-3-19-15(16)18-13-6-4-12(5-7-13)14-10-11(2)8-9-17-14;;/h4-10H,3H2,1-2H3,(H2,16,18);2*1H
